US07179934B2
(4R,5R)-3-Amino-4,5-dimethyl-(Z)-oct-2-enoic acid ethyl ester
A reactor vessel charged with 171 g of (4R,5R)-3-methoxyamino-4,5-dimethyl-(Z)-oct-2-enoic acid ethyl ester, 1600 mL of MeOH, and 65 g of Raney nickel (Ra—Ni) catalyst. The methoxyamino ester was reacted with hydrogen at 50 psig to 55 psig. During the hydrogenation, additional Ra—Ni was added at reaction times of 8 hours (20 g), 21 hours (20 g), and 37 hours (8 g). After the reaction was completed (51 hours), the Ra—Ni was filtered off and the filtrate was concentrated under reduced pressure to give 150 g (>99% yield) of the titled compound as an oil: 1H NMR (400 MHz, CHLOROFORM-D): 0.86 (t, J=4.5 Hz, 3 H), 0.88 (d, J=4.9 Hz, 3 H), 1.05–1.50 (m, 6 H), 1.10 (d, J=7.0 Hz, 3 H), 1.24 (t, J=7.2 Hz, 3 H), 1.87 (m, 1 H), 3.45 (s, 2 H) 4.08 (q, J=7.0 Hz, 2 H).

reactant | (4R,5R)-3-methoxyamino-4,5-dimethyl-(Z)-oct-2-enoic acid ethyl ester | 171 g | C(C)OC(\C=C(\[C@@H]([C@@H](CCC)C)C)/NOC)=O | C13H25NO3
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 65 g | [Ni] | Ni
solvent | MeOH | 1600 mL | CO | CH4O
product | (4R,5R)-3-Amino-4,5-dimethyl-(Z)-oct-2-enoic acid ethyl ester | 150 g, >99% yield | C(C)OC(\C=C(\[C@@H]([C@@H](CCC)C)C)/N)=O | C12H23NO2
